US07153863B2
A solution of 3-(2-fluoropyridin-4-yl)-2-propylpyrazolo[1,5-a]pyridine (126 mg, 0.49 mmol) in cyclopentylamine (5 mL) was heated in a sealed vessel at 150° C. for 18 h. The mixture was cooled to room temperature and concentrated in vacuo and the residue was purified by flash chromatography on silica gel (2:1 hexane-ethyl acetate) to give N-cyclopentyl-4-(2-propylpyrazolo[1,5-a]pyridin-3-yl)pyridin-2-amine (155 mg, 98%) as a yellow solid. 1H NMR (CDCl3) δ 8.41 (d, 1H), 8.07 (d, 1H), 7.58 (d, 1H), 7.14 (t, 1H), 6.74 (td, 1H), 6.66 (dd, 1H), 6.45 (s, 1H), 5.01 (broad, 1H), 3.95 (m, 1H), 2.91 (t, 2H), 2.04 (m, 2H), 1.80–1.50 (m, 8H), 0.98 (t, 3H); MS m/z 321 (M+1).

reactant | 3-(2-fluoropyridin-4-yl)-2-propylpyrazolo[1,5-a]pyridine | 0.49 mmol, 126 mg | FC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)CCC | C15H14FN3
reactant | cyclopentylamine | 5 mL | C1(CCCC1)N | C5H11N
product | N-cyclopentyl-4-(2-propylpyrazolo[1,5-a]pyridin-3-yl)pyridin-2-amine | 155 mg, 98% | C1(CCCC1)NC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)CCC | C20H24N4
